US04551171
Preparation of 5-[2-chloro-4-(trifluoromethyl)phenoxy] 2-nitrobenzaldehyde oxime.
To a solution of hydroxylamine hydrochloride (0.33 g., 0.0048 mole) and sodium acetate (0.394 g., 0.0048 mole) in 2-3 ml of water was added a hot solution of 5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitrobenzaldehyde (1.5 g., 0.00434 mole) in ethanol (10-12 ml). The clear yellow solution was heated for 1.5 hours and then the solvent was stripped on a rotary evaporator to give a yellow waxy solid which solidified giving 1.5 g., mp. 111°-115° C. Recrystallization from ethanol/water gave a solid mp. 114°-118° C.

reactant | hydroxylamine hydrochloride | 0.0048 mole, 0.33 g | Cl.NO
reactant | sodium acetate | 0.0048 mole, 0.394 g | C(C)(=O)[O-].[Na+]
reactant | 5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitrobenzaldehyde | 0.00434 mole, 1.5 g | ClC1=C(OC=2C=CC(=C(C=O)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C14H7ClF3NO4
solvent | water | 2-3 ml | O | H2O
solvent | ethanol | 10-12 ml | C(C)O | C2H6O
product | 5-[2-chloro-4-(trifluoromethyl)phenoxy] 2-nitrobenzaldehyde oxime | ClC1=C(OC=2C=CC(=C(C=NO)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C14H8ClF3N2O4
